US07368578B2
A mixture of methyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-methylbenzoate (1.21 g), vanillin (0.65 g), anhydrous potassium carbonate (0.59 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 5-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methylbenzoate as colorless crystals (1.45 g, yield 85%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 136-137° C.

reactant | methyl 5-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)-2-methylbenzoate | 1.21 g | ClCC=1N=C(OC1C)C=1C=CC(=C(C(=O)OC)C1)C | C14H14ClNO3
reactant | vanillin | 0.65 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 5-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methylbenzoate | 1.45 g, yield 85% | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)C)C=C1)OC | C22H21NO6
